US08420655B2
To a solution of N-[1-dimethylamino-meth-(E)-ylidene]-5-fluoro-phthalamic acid methyl ester plus regioiosmer (2.9 g, 11.50 mmol) in acetic acid (10 mL) is added methyl hydrazine (6.0 mL, 113.95 mmol). The reaction mixture is stirred at room temperature for 1 hour. The reaction mixture is diluted with EtOAc (250 mL) and the organic layer is washed with H2O (150 mL×2), dried with Na2SO4 and filtered. The filtrate is concentrated under reduced pressure. The residue is triturated with 1:1 EtOAc:hexanes (200 mL), and filtered to remove the white solid. The mother liquor is concentrated under reduced pressure and the residue is purified by silica gel flash column chromatography with 7.5% MeOH in CH2Cl2 as the eluent to afford 5-fluoro-2-(2-methyl-2H-1,2,4-triazol-3-yl)-benzoic acid methyl ester plus regioisomer (1.5 g, 55%).

reactant | N-[1-dimethylamino-meth-(E)-ylidene]-5-fluoro-phthalamic acid methyl ester | COC(C=1C(C(=O)/N=C/N(C)C)=CC=C(C1)F)=O | C12H13FN2O3
reactant | methyl hydrazine | 113.95 mmol, 6.0 mL | CNN | CH6N2
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | EtOAc | 250 mL | CCOC(=O)C | C4H8O2
product | 5-fluoro-2-(2-methyl-2H-1,2,4-triazol-3-yl)-benzoic acid methyl ester | COC(C1=C(C=CC(=C1)F)C=1N(N=CN1)C)=O | C11H10FN3O2
